US08084489B2
3-({5-[1-(4′-Trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid, Isomer 1
A solution of 3-({5-[1-(4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (chiral Isomer 1) (170 mg, 0.356 mmol) in methanol (7.1 mL) is treated with 5N NaOH (0.712 mL) and shaken at rt for 2 h. The reaction is neutralized with 1N HCl (0.748 mL), and extracted into ethyl acetate (2×). The combined organic layers are dried and concentrated, giving the title compound (142 mg). MS (ES): 464.2 [M+H]+.

reactant | 3-({5-[1-(4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.356 mmol, 170 mg | COC(CCNC(=O)C=1SC(=CC1)C(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C24H22F3NO4S
reactant | NaOH | 5N, 0.712 mL | [OH-].[Na+]
reactant | HCl | 1N, 0.748 mL | Cl | ClH
solvent | methanol | 7.1 mL | CO | CH4O
product | 3-({5-[1-(4′-Trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid | 142 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C)C1=CC=C(S1)C(=O)NCCC(=O)O)(F)F | C23H20F3NO4S
